US04329529
COMPARATIVE EXAMPLE 2 (TOLUENE-CYCLOHEXENE ALKYLATION SYSTEM)
Nine hundred and twenty grams of toluene were incorporated with 10 g of aluminum chloride, and 6 l of hydrogen chloride gas were blown against the resulting mixture. The whole mass was incorporated with 1,640 g of cyclohexene and agitated for 4 hours. The thus agitated whole mass was washed with water 8 times, heated to distill off 250 g of the unreacted toluene and cyclohexene in total and then subjected to reduced pressure distillation thereby obtaining a distillate boiling in the range of 208°-214° C. at 20 mm Hg. The thus obtained distillate (boiling in the range of 340°-355° C. at atmospheric pressure) was found to be dicyclohexyltoluene from its molecular weight and infra-red absorption spectrum. This distillate, the yield of which was 90% (2340 g) based on the cyclohexene, had a pour point of not higher than -10° C., a flash point of 192° C., a refractive index (nD20) of 1.5360, a specific gravity (20°/4° C.) of 0.959, and a viscosity of 96.3 cSt (37.8° C.) or 5.56 cSt (98.9° C.). Five hundred (500) grams of the distillate were charged into an autoclave, hydrogenated at a reaction pressure of 100 Kg/cm2 and reaction temperature of 215° C. for 10 hours in the presence of 50 g of a nickel-diatomaceous earth catalyst, and thereafter filtered to separate the catalyst and obtain a filtrate which was distilled to obtain a distillate boiling in the range of 160°-164° C. at 4 mm Hg. This distillate did not contain aromatic compounds and was found from its NMR spectra and gas chromatography to be dicyclohexylmethylcyclohexane boiling in the range of 320°-330° C. at atmospheric pressure, 140° C. at 20 mm Hg or 163° C. at 40 mm Hg. The distillate had a traction coefficient of 0.069 which was very unsatisfactory as compared with that (0.090) of the final product of toluene and styrene origin obtained in Example 2. In other words, styrene is suitable but cyclohexene is unsuitable as an alkylating agent for toluene.

reactant | aluminum chloride | 10 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrogen chloride | 6 l | Cl | ClH
reactant | cyclohexene | 1,640 g | C1=CCCCC1 | C6H10
reactant | dicyclohexyltoluene | C1(CCCCC1)C=1C(=C(C=CC1)C)C1CCCCC1 | C19H28
reactant | dicyclohexylmethylcyclohexane | C1(CCCCC1)C(C1CCCCC1)C1CCCCC1 | C19H34
reactant | styrene | C=CC1=CC=CC=C1 | C8H8
catalyst | nickel | 50 g | [Ni] | Ni
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | Nine hundred and twenty grams | C1(=CC=CC=C1)C | C7H8
product | TOLUENE CYCLOHEXENE | C1(=CC=CC=C1)C.C1=CCCCC1 | InChI=1S/C7H8.C6H10/c1-7-5-3-2-4-6-7;1-2-4-6-5-3-1/h2-6H,1H3;1-2H,3-6H2
